data/rdb19/train.csv
rxn,smiles,ea
3874,[C:13]([O:14][C:15]([C:16]([H:24])([H:25])[H:26])([C:17]([H:18])[H:19])[H:23])([H:20])([H:21])[H:22].[C:1]([C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])([H:8])[H:9])([H:5])([H:6])[H:7]>>[C:1]([C:2]([C:3](=[C:4][H:12])[H:10])([H:8])[H:9])([H:5])([H:6])[H:7].[H:11][C:17]([C:15]([O:14][C:13]([H:20])([H:21])[H:22])([C:16]([H:24])([H:25])[H:26])[H:23])([H:18])[H:19],25.780448218545644
1084,[C:14](=[C:15]([c:16]1[c:17]([H:25])[c:18]([H:26])[c:19]([H:27])[c:20]([H:28])[c:21]1[H:29])[H:24])([H:22])[H:23].[C:1]([C:2]([C:3]([H:4])[H:5])([C:6](=[O:7])[O:8][H:13])[H:12])([H:9])([H:10])[H:11]>>[C:1]([C:2]([C:3]([H:4])([H:5])[C:19]1([H:27])[C:18]([H:26])[C:17]([H:25])=[C:16]([C:15](=[C:14]([H:22])[H:23])[H:24])[C:21]([H:29])=[C:20]1[H:28])([C:6](=[O:7])[O:8][H:13])[H:12])([H:9])([H:10])[H:11],19.513506170304023
4726,[C:1]([H:2])([H:3])[H:4].[C:5]([C:6]([C:7]([C:8]([H:21])([H:22])[H:23])([c:9]1[c:10]([H:24])[c:11]([H:25])[c:12]([H:26])[c:13]([H:27])[c:14]1[H:28])[H:20])([H:18])[H:19])([H:15])([H:16])[H:17]>>[C:1]([H:2])([H:3])([H:4])[C:8]([H:21])([H:22])[H:23].[C:5]([C:6]([C:7]([c:9]1[c:10]([H:24])[c:11]([H:25])[c:12]([H:26])[c:13]([H:27])[c:14]1[H:28])[H:20])([H:18])[H:19])([H:15])([H:16])[H:17],51.41716012661345
428,[C:1]([O:2][O:3])([H:4])([H:5])[H:6].[C:7]([O:8][C:9](=[O:10])[C:11](=[C:12]([H:17])[H:18])[C:13]([H:19])([H:20])[H:21])([H:14])([H:15])[H:16]>>[C:1]([O:2][O:3][H:19])([H:4])([H:5])[H:6].[C:7]([O:8][C:9](=[O:10])[C:11](=[C:12]([H:17])[H:18])[C:13]([H:20])[H:21])([H:14])([H:15])[H:16],24.27307384373853
3072,[C:16]([C:17]([C:18]([H:19])[c:20]1[c:21]([H:31])[c:22]([H:32])[c:23]([H:33])[c:24]([H:34])[c:25]1[H:35])([H:29])[H:30])([H:26])([H:27])[H:28].[C:1]([C:2]([O:3][C:4](=[O:5])[C:6](=[C:7]([H:14])[H:15])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([O:3][C:4](=[O:5])[C:6](=[C:7]([H:14])[H:15])[H:13])([H:11])[H:12])([H:9])[H:10].[H:8][C:18]([C:17]([C:16]([H:26])([H:27])[H:28])([H:29])[H:30])([H:19])[c:20]1[c:21]([H:31])[c:22]([H:32])[c:23]([H:33])[c:24]([H:34])[c:25]1[H:35],31.25005303620128
885,[C:19]([C:20]([C:21]([H:22])[H:23])([O:24][C:25](=[O:26])[C:27]([H:32])([H:33])[H:34])[H:31])([H:28])([H:29])[H:30].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5](=[O:6])[N:7]([H:17])[H:18])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([H:11])([H:12])[C:21]([C:20]([C:19]([H:28])([H:29])[H:30])([O:24][C:25](=[O:26])[C:27]([H:32])([H:33])[H:34])[H:31])([H:22])[H:23])([H:8])([H:9])[H:10].[C:3]([C:4]([H:14])([H:15])[H:16])([C:5](=[O:6])[N:7]([H:17])[H:18])[H:13],56.51528544235043
1486,[C:10]([C:11]([C:12]([H:13])[O:14][C:15]([H:21])([H:22])[H:23])([H:19])[H:20])([H:16])([H:17])[H:18].[O:1]([C:2](=[O:3])[C:4](=[C:5]([H:8])[H:9])[H:7])[H:6]>>[O:1]([C:4]([C:2](=[O:3])[C:12]([C:11]([C:10]([H:16])([H:17])[H:18])([H:19])[H:20])([H:13])[O:14][C:15]([H:21])([H:22])[H:23])([C:5]([H:8])[H:9])[H:7])[H:6],55.0341154349735
5036,[C:11]([C:12]([C:13]([H:14])[c:15]1[c:16]([H:26])[c:17]([H:27])[c:18]([H:28])[c:19]([H:29])[c:20]1[H:30])([H:24])[H:25])([H:21])([H:22])[H:23].[C:1]([O:2][C:3](=[C:4]([H:9])[H:10])[H:8])([H:5])([H:6])[H:7]>>[C:11]([C:12](=[C:13]([H:14])[c:15]1[c:16]([H:26])[c:17]([H:27])[c:18]([H:28])[c:19]([H:29])[c:20]1[H:30])[H:24])([H:21])([H:22])[H:23].[C:1]([H:5])([H:6])[H:7].[O:2]([C:3](=[C:4]([H:9])[H:10])[H:8])[H:25],71.39237515605055
918,[C:19]([C:20]([C:21]([H:22])[O:23][C:24](=[O:25])[C:26]([H:32])([H:33])[H:34])([H:30])[H:31])([H:27])([H:28])[H:29].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5](=[O:6])[N:7]([H:17])[H:18])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([H:11])([H:12])[C:21]([C:20]([C:19]([H:27])([H:28])[H:29])([H:30])[H:31])([H:22])[O:23][C:24](=[O:25])[C:26]([H:32])([H:33])[H:34])([H:8])([H:9])[H:10].[C:3]([C:4]([H:14])([H:15])[H:16])([C:5](=[O:6])[N:7]([H:17])[H:18])[H:13],55.849259784503374
585,[C:1]([O:2][C:6]([H:7])([C:8]([H:10])([H:11])[S:12][C:13]([O:15][O:14])([H:16])[H:17])[H:9])([H:3])([H:4])[H:5]>>[C:1]([O:2])([H:3])([H:4])[H:5].[C:6]1([H:7])([H:9])[C:8]([H:10])([H:11])[S:12][C:13]([H:16])([H:17])[O:15][O:14]1,60.08858217578381
4052,[C:1]([O:2][C:3](=[O:4])[C:5]([C:6]([H:14])([H:15])[H:16])([C:7]([H:17])([H:18])[H:19])[C:8]([H:9])[H:10])([H:11])([H:12])[H:13].[C:20](=[C:21]([N:22]([C:23](=[O:24])[H:29])[H:28])[H:27])([H:25])[H:26]>>[C:1]([O:2][C:3](=[O:4])[C:5]([C:6]([H:14])([H:15])[H:16])([C:7]([H:17])([H:18])[H:19])[C:8]([H:9])([H:10])[N:22]([C:21](=[C:20]([H:25])[H:26])[H:27])[H:28])([H:11])([H:12])[H:13].[C:23](=[O:24])[H:29],41.63054265937535
2485,[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([C:7]([H:16])([H:17])[H:18])([C:8]([C:9]([H:21])([H:22])[H:23])([H:19])[H:20])[H:15])([H:13])[H:14])([H:10])([H:11])[H:12].[O:24][H:25]>>[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([C:7]([H:16])([H:17])[H:18])([C:8]([C:9]([H:21])([H:22])[H:23])([H:19])[H:20])[H:15])([H:13])[H:14])([H:10])[H:11].[H:12][O:24][H:25],8.990478246007115
